US09422267B2
To a solution of 6-fluoro-N-methyl-pyridin-3-amine (1.05 g, 8.34 mmol) in THF (15 mL) was added isopropylmagnesium chloride (2M in THF) (4.15 mL, 8.34 mmol) dropwise at 0° C. The reaction mixture was stirred at the same temperature for 30 min. followed by the dropwise addition of solution of ethyl (2S)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]pyrrolidine-2-carboxylate (0.8 g, 2.083 mmol) in THF (5 mL) at 0° C. The reaction mixture was stirred at RT for 2 h. The progress of reaction was monitored by LCMS. The reaction mixture was quenched with saturated solution of ammonium chloride (30 mL) and extracted with EtOAc (2×30 mL). The organic layer was washed with water (40 mL) followed by brine (20 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to obtain crude which was purified by reverse phase HPLC to afford (2S)—N-(6-fluoro-3-pyridyl)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]-N-methylpyrrolidine-2-carboxamide (190 mg) as solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 1.19-1.30 (m, 6H), 1.80-2.30 (m, 6H), 2.58-2.68 (m, 2H), 2.70-2.88 (m, 2H), 2.91-3.00 (m, 1H), 3.28 (s, 3H), 3.61-3.78 (m, 1H), 3.79-3.90 (m, 1H), 4.40 (brs, 1H), 6.18 (s, 1H), 6.66 (s, 1H), 7.00 (brs, 1H), 8.01 (brs, 1H), 8.20 (s, 1H). The other enantiomer was obtained by using the chiral (R) starting material.

reactant | 6-fluoro-N-methyl-pyridin-3-amine | 8.34 mmol, 1.05 g | FC1=CC=C(C=N1)NC | C6H7FN2
reactant | isopropylmagnesium chloride | 8.34 mmol, 2M, 4.15 mL | C(C)(C)[Mg]Cl
reactant | ethyl (2S)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]pyrrolidine-2-carboxylate | 2.083 mmol, 0.8 g | C(C)(C)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1[C@@H](CCC1)C(=O)OCC)CCC2 | C20H28N6O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S)—N-(6-fluoro-3-pyridyl)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]-N-methylpyrrolidine-2-carboxamide | 190 mg | FC1=CC=C(C=N1)N(C(=O)[C@H]1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C)C | C24H29FN8O
